US07253158B2
d) 3-Azido-5-isopropyl-azepan-2-one
3-Chloro-5-isopropyl-azepan-2-one (3.4 g, 18 mmol) and sodium azide (3.51 g, 53.9 mmol) were reacted in dry dimethyl sulfoxide (50 ml) overnight at 80° C. under an argon atmosphere. The reaction mixture was allowed to cool to r.t. diluted with water (200 ml) and extrated with CH2Cl2 (4×). The combined organic fractions were washed with water (3×), brine and dried (MgSO4) filtered and evaporated under reduced pressure. The crude yellow oil was purified over silica gel (ethyl acetate/n-heptane 1:2): yellow oil 2.6 g (70%); MS: m/e=197.4 (MH+)

reactant | 3-Chloro-5-isopropyl-azepan-2-one | 18 mmol, 3.4 g | ClC1C(NCCC(C1)C(C)C)=O | C9H16ClNO
reactant | sodium azide | 53.9 mmol, 3.51 g | [N-]=[N+]=[N-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 3-Azido-5-isopropyl-azepan-2-one | N(=[N+]=[N-])C1C(NCCC(C1)C(C)C)=O | C9H16N4O
